US06642395B1
1) Preparation of (S)-2-phenyl-2-hydroxyethyl p-Toluenesulfonate
Into toluene (10 ml) were added (S)-2-phenyl-2-(1-methoxy-1-methylethyloxy)ethyl p-toluenesulfonate (3.0 g), p-toluenesulfonic acid monohydrate (1.7 g) and methanol (0.5 g), and the resulting mixture was stirred at 50° C. for 1 hour. The reaction mixture was washed with a saturated aqueous sodium hydrogen carbonate solution, then with a saturated aqueous sodium chloride solution, and dried with anhydrous magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off under reduced pressure to obtain a colorless oily compound mentioned above (2.1 g, 88.0%).

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | (S)-2-phenyl-2-(1-methoxy-1-methylethyloxy)ethyl p-toluenesulfonate | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](OC(C)(C)OC)C1=CC=CC=C1)C | C19H24O5S
reactant | p-toluenesulfonic acid monohydrate | 1.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 0.5 g | CO | CH4O
product | (S)-2-phenyl-2-hydroxyethyl p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](O)C1=CC=CC=C1)C | C15H16O4S
